US04659809
To 200 ml of acetone were added 10.0 g of D-mannitol and 65 mg of antimony pentafluoride, and the mixture was refluxed with stirring in a water bath of 60° C. for 7 hours. During this reaction, the refluxing solvent was dried with 20 g of Molecular Sieves 3A interposed between the reaction vessel and the condenser. After completion of the reaction, a small amount of pyridine was added to the reaction solution, and the solvent was distilled off under reduced pressure. The residue was dissolved in chloroform, and the solution was washed with aqueous sodium bicarbonate and water, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to give 17.43 g (93.3%) of 1,2:3,4:5,6-tri-O-isopropylidene-D-mannitol. Melting point, 68.5°-70.5° C. (recrystallized from 70% ethanol).

reactant | acetone | 200 ml | CC(=O)C | C3H6O
reactant | D-mannitol | 10.0 g | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
reactant | antimony pentafluoride | 65 mg | [Sb](F)(F)(F)(F)F
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1,2:3,4:5,6-tri-O-isopropylidene-D-mannitol | 17.43 g, 93.3% | CC1(OCC(O1)C2C(OC(O2)(C)C)C3COC(O3)(C)C)C | C15H26O6
